US07632857B2
Procedure P′: A 25 mL DMSO mixture of 4-bromo-N-tert-butyl-benzenesulfonamide (CAS 93281-65-3) (2000 mg, 6.84 mmol), bis(pinacolato)diboron (2090 mg, 8.21 mmol), [1,1 bis(diphenylphosphino)ferrocene] dichloropalladium(II) complex with CH2Cl2 (1:1) (175 mg, 240 mmol), and KOAc (2020 mg, 20.5 mmol) is stirred under N2 at 90° C. for 7.5 hours. Reaction mixture is allowed to cool, is diluted with H2O and is extracted with CH2Cl2. The CH2Cl2 extract is washed with H2O and brine, dried (Na2SO4) and evaporated. The crude product is purified by silica-gel column chromatography (gradient: 100% CH2Cl2 to 5% EtOAc/CH2Cl2) give the intermediate N-tert-butyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide (2000 mg, 86% yield). (MS (ES−) 256 (boronic acid).

reactant | 4-bromo-N-tert-butyl-benzenesulfonamide | 6.84 mmol, 2000 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C10H14BrNO2S
reactant | bis(pinacolato)diboron | 8.21 mmol, 2090 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 240 mmol, 175 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 20.5 mmol, 2020 mg | CC(=O)[O-].[K+]
solvent | H2O | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | N-tert-butyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | 2000 mg, 86% yield | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
